US05091403
(i) N-(3,5-dimethyl-4-methoxyphenyl)-2-methoxyacetamide
To a solution of 5.00 g (33 mmol) of 3,5-dimethyl-4-methoxyaniline and 7.1 ml of triethylamine in 50 ml of dichloromethane was dropwise added a solution of 4.31 g (40 mmol) of methoxyacetylchloride in 20 ml of dichloromethane under chilling with ice for a period of 30 min. The resulting mixture was stirred for 30 min. at room temperature. The reaction mixture was washed sequentially with 5 aqueous sodium carbonate and 3 N hydrochloric acid, and then dried over anhydrous sodium sulfate. Dichloromethane was distilled off. The residue was crystallized from ether hexane to obtain 6.70 g of the desired compound as a white crystal. (Yield: 90.7 %)

reactant | 3,5-dimethyl-4-methoxyaniline | 33 mmol, 5.00 g | CC=1C=C(N)C=C(C1OC)C | C9H13NO
reactant | triethylamine | 7.1 ml | C(C)N(CC)CC | C6H15N
reactant | methoxyacetylchloride | 40 mmol, 4.31 g | COCC(=O)Cl | C3H5ClO2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-(3,5-dimethyl-4-methoxyphenyl)-2-methoxyacetamide | 6.70 g, Yield: 90.7 % | CC=1C=C(C=C(C1OC)C)NC(COC)=O | C12H17NO3
